US09193707B2
2. Synthesis of methyl 2-(benzyloxy)-3-methylbenzoate
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed methyl 2-hydroxy-3-methylbenzoate (25 g, 150.44 mmol, 1.00 equiv), N,N-dimethylformamide (250 mL) and Cs2CO3 (103 g, 316.13 mmol, 2.10 equiv). This was followed by the addition of (bromomethyl)benzene (31 g, 181.25 mmol, 1.20 equiv). The resulting solution was stirred for 2 h at room temperature. The resulting solution was diluted with 1.2 L of ethyl acetate. The resulting mixture was washed with 3×800 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 40 g (crude) of methyl 2-(benzyloxy)-3-methylbenzoate as brown oil. MS (ESI) m/z 257 ([M+H]+).

reactant | methyl 2-hydroxy-3-methylbenzoate | 150.44 mmol, 25 g, 1.00 equiv | OC1=C(C(=O)OC)C=CC=C1C | C9H10O3
reactant | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
reactant | Cs2CO3 | 316.13 mmol, 103 g, 2.10 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (bromomethyl)benzene | 181.25 mmol, 31 g, 1.20 equiv | BrCC1=CC=CC=C1 | C7H7Br
solvent | ethyl acetate | 1.2 L | C(C)(=O)OCC | C4H8O2
product | methyl 2-(benzyloxy)-3-methylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1C | C16H16O3
